US07846959B2
2-[(3-Oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl]benzoic acid (100 mg, 0.34 mmol.) was taken into DMF (1 mL) followed by addition of 4-methylmorpholine (75 uL, 0.7 mmol.) and PyBOP (177 mg, 0.34 mmol.) and the resulting solution was stirred for 15 minutes at room temperature. o-Phenylenediamine (37 mg, 0.34 mmol.) was added to the solution thus obtained and the mixture was allowed to stir an additional hour then partitioned with ethyl acetate and water. The organic layer was washed with water (3×), 10% aqueous citric acid (2×), saturated aqueous sodium bicarbonate (1×) and brine then dried over anhydrous sodium sulfate. A portion of the residue obtained on filtration and concentration of the organic solution was purified by silica gel flash chromatography (2:1 ethyl acetate:hexanes to 100% ethyl acetate) gave 6-[2-(2-aminophenyl)-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl]-2H-1,4-benzoxazin-3(4H)-one (4.0 mg, 3% yield). The remainder of the crude residue was taken into acetic acid (5 mL) and heated to reflux for one hour. The solvent was removed in vacuo and the residue partitioned with ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate and the residue was purified by silica gel flash chromatography (2.5:1 ethyl acetate:hexanes) to give 6-{[2-(1H-benzimidazol-2-yl)phenyl]carbonyl}-2H-1,4-benzoxazin-3(4H)-one (28 mg, 22% yield). 6-[2-(2-Aminophenyl)-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl]-2H-1,4-benzoxazin-3(4H)-one: MS (EI) for C22H17N3O4: 388 (MH+). 6-{[2-(1H-Benzimidazol-2-yl)phenyl]carbonyl}-2H-1,4-benzoxazin-3(4H)-one: 1H NMR (400 MHz, d6-DMSO): 12.84 (br s, 1H), 10.75 (br s, 1H), 8.00 (d, 1H), 7.73 (tr, 1H), 7.59 (tr, 1H), 7.44-7.37 (m, 3H), 7.32 (s, 1H), 7.15-7.06 (m, 3H), 6.87 (d, 1H), 4.58 (s, 2H). MS (EI) for C22H15N3O3: 370 (MH+).

reactant | 2-[(3-Oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl]benzoic acid | 0.34 mmol, 100 mg | O=C1COC2=C(N1)C=C(C=C2)C(=O)C2=C(C(=O)O)C=CC=C2 | C16H11NO5
reactant | 4-methylmorpholine | 0.7 mmol, 75 uL | CN1CCOCC1 | C5H11NO
reactant | PyBOP | 0.34 mmol, 177 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | o-Phenylenediamine | 0.34 mmol, 37 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-[2-(2-aminophenyl)-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl]-2H-1,4-benzoxazin-3(4H)-one | 4.0 mg, 3% yield | NC1=C(C=CC=C1)N1C(C2=CC=CC=C2C1=O)(O)C=1C=CC2=C(NC(CO2)=O)C1 | C22H17N3O4
